US05091393
A solution of 6.95 g (30 mmol) of 3,6-dimethyl-5-(4-methoxyphenyl)-3,4-dihydro-2-pyridone in 70 ml of tetrahydrofuran was added dropwise under nitrogen to a suspension of 1.7 g (45 mmol) of lithium aluminium hydride in 50 ml of dry tetrahydrofuran. After the reaction mixture had been refluxed for 90 minutes, it was cooled and 1.7 ml of water in 10 ml of tetrahydrofuran, 3.4 ml of 2N sodium hydroxide and 3.4 ml of water were added dropwise successive while cooling with ice. After refluxing for a short period of time the resulting precipitate was filtered off and rinsed thoroughly with warm tetrahydrofuran; the filtrate was evaporated under reduced pressure. The resulting crude product (6.5 g) was dissolved, without further purification, in 75 ml of absolute ethanol. 0.5 g of platinum oxide were added to this solution and the mixture was hydrogenated at room temperature and atmospheric pressure for 30 minutes. After removing the catalyst by filtration the ethanol was evaporated under reduced pressure. The resulting crude product (6 g) was purified by means of flash chromatography over 100 g of silicagel (Merck, grain size 0.040-0.063 mm) using a mixture of ethyl acetate, methanol and concentrated ammonia (93:6.5:0.5) as an eluent, succeeded by flash chromatography over 100 g of silicagel (Merck, grain size 0.040-0.063 mm) using a mixture of dichloromethane, methanol and concentrated ammonia (93:6.5:0.5) as an eluent. After combining and evaporating the desired fractions, totally 2.5 g (38%) of 2,5-dimethyl-3-(4-methoxyphenyl)piperidine were obtained.

reactant | 3,6-dimethyl-5-(4-methoxyphenyl)-3,4-dihydro-2-pyridone | 30 mmol, 6.95 g | CC1C(NC(=C(C1)C1=CC=C(C=C1)OC)C)=O | C14H17NO2
reactant | lithium aluminium hydride | 45 mmol, 1.7 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 2N, 3.4 ml | [OH-].[Na+]
solvent | water | 3.4 ml | O | H2O
solvent | water | 1.7 ml | O | H2O
product | 2,5-dimethyl-3-(4-methoxyphenyl)piperidine | 2.5 g, 38% | CC1NCC(CC1C1=CC=C(C=C1)OC)C | C14H21NO
